US06265415B1
Synthesis of 3-carboethoxy-2,6-dimethyl-8-(2,6-diethylbenzylamino) imidazo[1,2-a]pyridine
A stirred mixture of 8-amino-3-carboethoxy-2,6-dimethylimidazo[1,2-a]pyridine (2.02 g, 8.6 mmol), zinc(II)chloride (1.48 g, 10.8 mmol) and 2,6-diethylbenzaldehyde (2.17 g, 13.4 mmol) in 50 ml methanol was treated with sodium cyanoborohydride (0.65 g, 10.3 mmol) and was refluxed overnight. The mixture was allowed to cool and then poured over 80 ml 1M sodium hydroxide. The precipitate formed was filtrated and washed with water and then purified by column chromatography on silica gel with dichloromethane:methanol (95:5) as eluent. The yield was 2.1 g (64%) of the title compound.

reactant | 8-amino-3-carboethoxy-2,6-dimethylimidazo[1,2-a]pyridine | 8.6 mmol, 2.02 g | NC=1C=2N(C=C(C1)C)C(=C(N2)C)C(=O)OCC | C12H15N3O2
reactant | 2,6-diethylbenzaldehyde | 13.4 mmol, 2.17 g | C(C)C1=C(C=O)C(=CC=C1)CC | C11H14O
reactant | sodium cyanoborohydride | 10.3 mmol, 0.65 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1M, 80 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | zinc(II)chloride | 10.8 mmol, 1.48 g | [Cl-].[Zn+2].[Cl-]
product | 3-carboethoxy-2,6-dimethyl-8-(2,6-diethylbenzylamino) imidazo[1,2-a]pyridine | C(=O)(OCC)C1=C(N=C2N1C=C(C=C2NCC2=C(C=CC=C2CC)CC)C)C | C23H29N3O2
